US04849424
In anhydrous tetrahydrofuran, 149 mg of 2,4-dichloropyrimidine was substituted with 136 mg of imidazole. The reaction mixture was treated according to the procedure of Example 1 to yield 163 mg of 2,4-bis(1-imidazolyl)pyrimidine, recrystallized from a mixture of n-hexane and ethyl acetate, the compound had a melting point of 131°-132° C.

reactant | 2,4-dichloropyrimidine | 149 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | imidazole | 136 mg | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,4-bis(1-imidazolyl)pyrimidine | 163 mg | N1(C=NC=C1)C1=NC=CC(=N1)N1C=NC=C1 | C10H8N6
